US07572808B2
7-(4-chlorophenyl)-2-(4-methoxybenzyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one
The title compound was prepared by coupling 7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one with the requisite benzyl halide in a manner analogous to that in which 7-(4-chlorophenyl)-2-(4-(methylsufonyl)benzyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one was prepared. HPLC/MS: retention time=2.213 min, [M+H]+=444.

reactant | 7-(4-chlorophenyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(NN2)=O)C2=CC=NC=C2 | C17H11ClN4O
reactant | 7-(4-chlorophenyl)-2-(4-(methylsufonyl)benzyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)CC2=CC=C(C=C2)S(=O)(=O)C)=O)C2=CC=NC=C2 | C25H19ClN4O3S
product | 7-(4-chlorophenyl)-2-(4-methoxybenzyl)-8-(pyridin-4-yl)-[1,2,4]triazolo[4,3-a]pyridin-3(2H)-one | ClC1=CC=C(C=C1)C1=C(C=2N(C=C1)C(N(N2)CC2=CC=C(C=C2)OC)=O)C2=CC=NC=C2 | C25H19ClN4O2
